US08030500B2
1-(3-Bromophenyl)-4-fluoro-1-(4-methoxyphenyl)-1H-isoindol-3-amine
4-Methoxyphenylmagnesium bromide (6.00 mL, 3.00 mmol) was added to a solution of N-((3-bromophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide (0.407 g, 1 mmol) in THF (10 mL) at 0° C. under an argon atmosphere. The resulting mixture was stirred and allowed to reach r.t. over night, then quenched with saturated aqueous NH4Cl, diluted with saturated aqueous NaHCO3 and extracted with DCM. The combined organics were passed through a phase separator (Sorbent) and concentrated. The residue was dissolved in MeOH (10 mL), and hydrogen chloride (2M in diethyl ether, 2 mL, 4 mmol) was added and the resulting mixture was stirred at r.t for 2.5 h. The mixture was concentrated in vacuo and purified on a silica gel column eluted with 0-5% 0.1M NH3 in MeOH in DCM to afford 0.39 g (95% yield) of the title compound: MS (ES+) m/z 411, 413 [M+1]+.

reactant | 4-Methoxyphenylmagnesium bromide | 3.00 mmol, 6.00 mL | COC1=CC=C(C=C1)[Mg]Br
reactant | N-((3-bromophenyl)(2-cyano-3-fluorophenyl)methylene)-2-methylpropane-2-sulfinamide | 1 mmol, 0.407 g | BrC=1C=C(C=CC1)C(=NS(=O)C(C)(C)C)C1=C(C(=CC=C1)F)C#N | C18H16BrFN2OS
reactant | hydrogen chloride | 4 mmol, 2M, 2 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(3-Bromophenyl)-4-fluoro-1-(4-methoxyphenyl)-1H-isoindol-3-amine | 0.39 g, 95% yield | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC=C(C=C1)OC | C21H16BrFN2O
